US07326791B2
(d) rac.-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-[3-(ethoxycarbonyl)-5,6-dihydro-4H-cyclopentapyrazol-1-yl]-3-trifluoromethylbenzamide
Prepared analogously to Example 1g from 4-[3-(ethoxycarbonyl)-5,6-dihydro-4H-cyclopentapyrazol-1-yl]-3-trifluoromethylbenzoic acid, TBTU, triethylamine, and (5-chloro-1H-benzimidazol-2-yl)ethylamine in tetrahydrofuran. Yield: 52%; Rf value: 0.40 (silica gel; ethyl acetate);C26H23ClF3N5O3 (545.95); mass spectrum: (M+H)+=546.

reactant | 4-[3-(ethoxycarbonyl)-5,6-dihydro-4H-cyclopentapyrazol-1-yl]-3-trifluoromethylbenzoic acid | C(C)OC(=O)C1=NN(C2=C1CCC2)C2=C(C=C(C(=O)O)C=C2)C(F)(F)F | C17H15F3N2O4
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | (5-chloro-1H-benzimidazol-2-yl)ethylamine | ClC1=CC2=C(NC(=N2)CCN)C=C1 | C9H10ClN3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | rac.-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-[3-(ethoxycarbonyl)-5,6-dihydro-4H-cyclopentapyrazol-1-yl]-3-trifluoromethylbenzamide | Yield: 52% | ClC1=CC2=C(NC(=N2)C(C)NC(C2=CC(=C(C=C2)N2N=C(C3=C2CCC3)C(=O)OCC)C(F)(F)F)=O)C=C1 | C26H23ClF3N5O3
